US07273877B2
1-Chloro-2-naphthalenamine and ethyl 4,6-dichloronicotinate were reacted in a mixture of EtOH and conc. HCl as described for example 33, step A. The resultant solid was isolated by filtration and washed with 10% Et2O/Hexane, giving ethyl 6-chloro-4-[(1-chloro-2-naphthyl)amino]nicotinate (22%). 1H NMR [400 MHz, (CD3)2SO] δ 10.07 (br s, 1H), 8.75 (s, 1H), 8.23 (d, J=8.7 Hz, 1H), 8.09-8.05 (m, 2H), 7.77-7.71 (m, 2H), 7.66 (ddd, J=8.0, 6.9, 1.1 Hz, 1H), 6.75 (s, 1H), 4.41 (q, J=7.1 Hz, 2H), 1.38 (t, J=7.1 Hz, 3H).

reactant | 1-Chloro-2-naphthalenamine | ClC1=C(C=CC2=CC=CC=C12)N | C10H8ClN
reactant | ethyl 4,6-dichloronicotinate | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | ethyl 6-chloro-4-[(1-chloro-2-naphthyl)amino]nicotinate | 22% | ClC1=NC=C(C(=O)OCC)C(=C1)NC1=C(C2=CC=CC=C2C=C1)Cl | C18H14Cl2N2O2
